US05364871
4-(4-Aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (1.09 g) was dissolved in water (10 ml) and the solution was adjusted to pH 4 with aqueous sodium hydrogen carbonate. Potassium cyanate (0.25 g) was added to the solution and the mixture was stirred for one hour at ambient temperature. After the pH was readjusted to 4 with 6N-hydrochloric acid, additional potassium cyanate (0.25 g) was added and the mixture was further stirred for 6 hours. The reaction mixture was made basic with aqueous potassium carbonate and the resulting precipitate was collected by filtration. The crude product was chromatographed on silica gel with use of chloroform-methanol (8:2) as eluent and converted to the dihydrochloride in a usual manner. This salt was recrystallized from an aqueous ethanol to give 2-(diaminomethyleneamino)-4-(4-ureidomethylpyridin-2-yl)thiazole dihydrochloride (0.70 g).

reactant | 4-(4-Aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 1.09 g | NCC1=CC(=NC=C1)C=1N=C(SC1)N=C(N)N | C10H12N6S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | Potassium cyanate | 0.25 g | [O-]C#N.[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | potassium cyanate | 0.25 g | [O-]C#N.[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 ml | O | H2O
product | 2-(diaminomethyleneamino)-4-(4-ureidomethylpyridin-2-yl)thiazole dihydrochloride | 0.70 g | Cl.Cl.NC(N)=NC=1SC=C(N1)C1=NC=CC(=C1)CNC(=O)N | InChI=1S/C11H13N7OS.2ClH/c12-9(13)18-11-17-8(5-20-11)7-3-6(1-2-15-7)4-16-10(14)19;;/h1-3,5H,4H2,(H3,14,16,19)(H4,12,13,17,18);2*1H
